.subckt or4_x1 A1 A2 A3 A4 X VDD VSS
XO40_PA0 no4_1 A1 VDD VDD pmos w=2u l=100n
XO40_PB0 no4_2 A2 no4_1 VDD pmos w=2u l=100n
XO40_PC0 no4_3 A3 no4_2 VDD pmos w=2u l=100n
XO40_PD0 nor4_out A4 no4_3 VDD pmos w=2u l=100n
XO40_NA0 nor4_out A1 VSS VSS nmos w=1u l=100n
XO40_NB0 nor4_out A2 VSS VSS nmos w=1u l=100n
XO40_NC0 nor4_out A3 VSS VSS nmos w=1u l=100n
XO40_ND0 nor4_out A4 VSS VSS nmos w=1u l=100n
XO4I0_P0 X nor4_out VDD VDD pmos w=2u l=100n
XO4I0_N0 X nor4_out VSS VSS nmos w=1u l=100n
.ends or4_x1
